US07947851B2
Step a) Formation of methyl 5-[{4-[(4-butylphenyl)ethynyl]benzyl}(3,3 dimethylbutyl)amino]-2-fluorobenzoate
Methyl 5-({4-[(4-butylphenyl)ethynyl]benzyl}amino)-2-fluorobenzoate (800 mg, 1.93 mmol) was dissolved in DCE (15 mL), then 3,3-dimethyl-butyraldehyde (289 mg, 2.89 mmol) was added followed by sodium triacetoxyborohydride (Aldrich, 1224 mg, 5.78 mmol) and the resulting mixture stirred at 70° C. for 2 h. Reaction was allowed to cool down, dichloromethane (40 mL) was added and the organic layer was washed twice with H2O and once with brine, dried over MgSO4, filtered and concentrated under reduced pressure. Purification on silicagel afforded 541 mg (56%) of the title compound as a colorless oil. HPLC, Rt: 6.42 min, purity: 98.3%); LC/MS, M+(ESI): 500.4; 1H NMR (CDCl3) δ: 7.44 (m, 4H), 7.17 (m, 5H), 6.93 (t, J=9.6 Hz, 1H), 6.73 (m, 1H), 4.46 (s, 2H), 3.88 (s, 3H), 3.40 (m, 2H), 2.60 (t, J=7.7 Hz, 2H), 1.70-1.46 (m, 4H), 1.34 (m, 2H), 0.99-0.87 (m, 12H).

reactant | Methyl 5-({4-[(4-butylphenyl)ethynyl]benzyl}amino)-2-fluorobenzoate | 1.93 mmol, 800 mg | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CNC=2C=CC(=C(C(=O)OC)C2)F)C=C1 | C27H26FNO2
reactant | 3,3-dimethyl-butyraldehyde | 2.89 mmol, 289 mg | CC(CC=O)(C)C | C6H12O
reactant | sodium triacetoxyborohydride | 5.78 mmol, 1224 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | DCE | 15 mL | ClCCCl | C2H4Cl2
product | methyl 5-[{4-[(4-butylphenyl)ethynyl]benzyl}(3,3 dimethylbutyl)amino]-2-fluorobenzoate | 541 mg, 56% | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C=2C=CC(=C(C(=O)OC)C2)F)CCC(C)(C)C)C=C1 | C33H38FNO2
